US05563230
4-(10-Undecen-1-yloxy)biphenyl-4'-carboxylic acid (I-12)
All the five compounds were prepared by the same method. The compounds I-8, I-9, I-10, I-11 and I-12 were synthesized by separately reacting allyl iodide, compounds I-4, I-5, I-6 and I-7 with 4-hydroxybiphenyl-4'-carboxylic acid. The synthesis of compound I-12 was described below as an example. 3.62 g (0.0157 mole) 4-hydroxylbiphenyl-4'-carboxylic acid, 500 ml ethanol, 50 ml water, 0.5 g KI and 2.02 g (0.036 mole) NaOH were heated to reflux for one hour. 7 g compound I-7 was then added dropwise. The mixture was refluxed for 12 hours and then 100 ml of 10% NaOH aqueous solution was added. The mixture was again heated to reflux for 2 hours, and cooled to room temperature. Water and diluted HCl were poured into the cooled mixture to precipitate, and the precipitated white solid was filtered and recrystallized from acetic acid to obtain 4.43 g of white crystals. mp: I-8: 231.8° C.; I-9: 223.7° C.; I-10: 213.9° C.; I-11: 202.8° C.; I-12: 161.4° C. Yield: I-8: 66.9%;I-9: 84.03%; I-10: 81.4%; I-11: 89.96%; I-12: 80.6%. 1H-NMR:

reactant | allyl iodide | C(C=C)I | C3H5I
reactant | 4-hydroxybiphenyl-4'-carboxylic acid | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | 4-hydroxylbiphenyl-4'-carboxylic acid | 0.0157 mole, 3.62 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | NaOH | 0.036 mole, 2.02 g | [OH-].[Na+]
reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | Water | O | H2O
solvent | water | 50 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(10-Undecen-1-yloxy)biphenyl-4'-carboxylic acid | 4.43 g | C(CCCCCCCCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H30O3
